US06586633B1
Production of 4-(1-Methyl-1-phenylethyl)benzaldehyde
2,2-Diphenylpropane (3.93 g; 20.0 mmol) and hexamethylenetetramine (2.80 g; 20.0 mmol) were added to trifluoroacetic acid (35 ml), and the mixture was refluxed for 16 hours. The mixture was brought to room temperature, and poured into ice/water, followed by stirring for 1 hour. The pH of the mixture was adjusted to about 9 with potassium carbonate, followed by extraction with ether (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to thereby yield 3.61 g of the target compound (yield: 80.5%).

reactant | 2,2-Diphenylpropane | 20.0 mmol, 3.93 g | C1(=CC=CC=C1)C(C)(C)C1=CC=CC=C1 | C15H16
reactant | hexamethylenetetramine | 20.0 mmol, 2.80 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 35 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(1-Methyl-1-phenylethyl)benzaldehyde | yield 3.61 g, yield: 80.5% | CC(C)(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C16H16O
